2125-02-02 07:38:00 Physician Resident Progress Note
Chief Complaint: Hematuria, cough, abdominal pain
   24 Hour Events:
   - transfused 1 unit pRBCs
   - IVC filter placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2125-2-2**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 86 (78 - 97) bpm
   BP: 108/50(66) {95/50(61) - 119/65(73)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    415 mL
                                                                      2 mL
   PO:
             TF:
   IVF:
                                                                     40 mL
                                                                      2 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    730 mL
                                                                    300 mL
   Urine:
                                                                    730 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                   -298 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale, No(t) Sclera edema, non-reactive,
   surgical pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: L base)
   Abdominal: Bowel sounds present, Distended, Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   222 K/uL
   9.8 g/dL
   97 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.4 mEq/L
   12 mg/dL
   113 mEq/L
   144 mEq/L
   29.0 %
   24.1 K/uL
        [image002.jpg]
                             [**2125-2-1**]  12:53 PM
                             [**2125-2-1**]  07:45 PM
                             [**2125-2-2**]  02:47 AM
   WBC
   26.3
   21.6
   24.1
   Hct
   25.9
   24.9
   29.0
   Plt
   [**Telephone/Fax (3) 1283**]
   Cr
   0.6
   0.6
   Glucose
   105
   97
   Other labs: PT / PTT / INR:13.8/25.5/1.2, ALT / AST:17/46, Alk Phos / T
   Bili:66/1.7, Amylase / Lipase:/21, Differential-Neuts:21.0 %, Band:5.0
   %, Lymph:67.0 %, Mono:4.0 %, Eos:0.0 %, Albumin:3.2 g/dL, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 CANCER (MALIGNANT NEOPLASM), OTHER
 HYPOXEMIA
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hematuria
 ASTHMA
   85F russian, CLL, presenting with cough, abd pain, and hematuria, found
   to have LUL collapse [**1-6**] LAD, multiple abdominal mets, and new bladder
   mass.
   .
   # hypotension - resolving, ddx includes hypovolemia (blood loss,
   dehydration) vs sepsis vs PE vs [**1-6**] morphine. ANC > 1000, thus atypical
   infxns unlikely.  feel more likely medication vs sepsis. BP stable
   presently, low 100s, mentating well, well perfused.
   - follow UOP, prn bolus for UOP <30cc/hr (EF >55%).
   - T&S.
   - serial HCT for today, q8h.
   - f/u bcx, ucx, consider sputum cx.
   - continue levo/flagyl for now, consider broadening for
   post-obstructive cvg only if looks ill.
   - LENIs to consider IVC filter, consider CTA, as would be useful to
   better characterize thoracic lymphadenopathy in terms best site for
   biopsy.
   - ?heparin, consider hold off on anticoag for now given stable
   respiratory status, and ?hemodynamically significant bleeding.
   .
   .
   # hypoxia - +cough, new LLL collapse likely 2/2 L hilar lymphadenopathy
   with resulting post-obstructive colapse, +LLL effusion, ?RLL increased
   opacification, also ?contribution from RLL PE (?old), not completely
   characterized on CT ABD/PELVIS. no EKG changes concerning for MI, no
   evidence of CHF.  currently on 2L O2, breathing comfortably.
   - CTA to characterize PE, also to characterize thoracic lymphadenoapthy
   and metastasis with regard to potential biopsy sites, will switch to
   high res CT chest tommorow as will place IVC filter empirically given
   that hct is dropping and prefer to avoid anticoagulation for tonight.
   - continue levo/flagyl, broaden if looks ill.
   - consider heparin gtt after CTA, hematuria stable presently
   - check sputum cx.
   .
   .
   # abdominal pain - multiple new omental, peritoneal, mesenteric, and
   retroperitoneal metastases, GE jxn mass, LUQ mass, primary unclear
   (bladder vs ovarian, though s/p tah/bso), concerning for new metastatic
   malignancy. also increased splenomegaly.  elevated tbil (2.1), though
   AP normal, could be [**1-6**]  hemolysis, no liver lesions on CT.
   - trend LFTs, no evidence of bil dil on CT, consider RUQ USN if
   trending up.
   - tylenol, ultram prn for abd pain, would use 0.5-1mg morphine for abd
   pain if needed, though would be cautious given BP drop in ED.
   - hyperbilirubinemia may be [**1-6**] hemolysis, no biliary dilation on CT,
   no RUQ pain.
   - fractionate bilirubin.
   .
   .
   # hematuria - new bladder mass on CT scan, 400cc UOP in ED, ~100-200cc
   on arrival to [**Hospital Unit Name 44**].  has had clots in urine per pt.  creatinine
   stable.
   - place 3 way foley.
   - continuous bladder irrigation.
   - urology consult re biopsy of bladder mass.
   - hold aspirin.
   - cycle hct q8hr today.
   .
   .
   # leukocytosis - likely [**1-6**] CLL vs infection.
   - treat with abx as above, discuss plan for CLL with heme-onc.
   .
   # hyperbilirubinemia - no ruq pain, no biliary dilation on CT, ddx also
   includes hemolysis.
   - trend LFTs.
   - fractionate bili, check smear, haptoglobin, DAT.
   .
   .
   # CLL - baseline hct 35-36, plt 200s, splenomegaly now increased, new
   mediastinal lymphadenopathy.  new bladder mass.  +hyperbil, though
   haptoglobin+, DAT negative in [**5-11**], could represent hemolysis.
   - heme/onc consult.
   - fractionate bilirubin, check haptoglobin, LDH, platelets smear, DAT
   - d/w team best site for tissue biopsy.
   - elevated uric acid, ?tumor lysis-> will continue gentle IVF
   hydration, follow uric acid, phos, ca.
   .
   # htn - hold home antihypertensives given hypotension and hematuria.
   .
   # asthma - continue home meds.
   .
   # hyperlipidemia - continue home statin.
   .
   # OA - left hip, knee, tx with prn tylenol (max 2g/day given elevated
   LFTs).
   .
   # glucose intolerance - follow FSBS here, cover with [**Last Name (LF) **], [**First Name3 (LF) 178**] d/c if
   not requring insulin.
   .
   #FEN
   - npo for now, though biopsy unlikely, then diabetic diet.
   .
   #PPx
   - pneumoboots after LENIs, ppi.
   - bowel regimen prn.
   .
   #CODE: DNR/DNI, d/w pt and her son.
   .
   #DISPO
   - pending clinical improvement
   .
   #COMM: [**Name (NI) 1263**] [**Name2 (NI) 1264**] h-[**Telephone/Fax (1) 1265**], cell [**Telephone/Fax (1) 1266**].
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-2-1**] 10:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition:

2125-02-02 09:29:00 Physician Attending Progress Note
Chief Complaint:abdominal pain, hematuria, transient hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo F w/ CLL presents with hematuria, abd pain and transient
   hypotension in ED,  found to have extensive masses throughout abd and
   pelvis/bladder concerning for widely metastatic disease of unclear
   primary , also with evidence of partial LLL collapse and PE
   24 Hour Events:
   received 1 units PRBC with appropriate bump
   IVC filter placed yesterday
   abd pain controlled with low dose morphine IV
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2125-2-2**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-2**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 91 (78 - 97) bpm
   BP: 117/61(75) {95/50(61) - 119/65(75)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    415 mL
                                                                    122 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                     40 mL
                                                                      2 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    730 mL
                                                                    340 mL
   Urine:
                                                                    730 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), P2, no RV strain
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: b/b), no
   wheeze appreciated
   Abdominal: Soft, Distended, Tender: to palpation, no R/G, + BS
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   222 K/uL
   97 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.4 mEq/L
   12 mg/dL
   113 mEq/L
   144 mEq/L
   29.0 %
   24.1 K/uL
        [image002.jpg]
                             [**2125-2-1**]  12:53 PM
                             [**2125-2-1**]  07:45 PM
                             [**2125-2-2**]  02:47 AM
   WBC
   26.3
   21.6
   24.1
   Hct
   25.9
   24.9
   29.0
   Plt
   [**Telephone/Fax (3) 1283**]
   Cr
   0.6
   0.6
   Glucose
   105
   97
   Other labs: PT / PTT / INR:13.8/25.5/1.2, ALT / AST:17/46, Alk Phos / T
   Bili:66/1.7, Amylase / Lipase:/21, Differential-Neuts:21.0 %, Band:5.0
   %, Lymph:67.0 %, Mono:4.0 %, Eos:0.0 %, Albumin:3.2 g/dL, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: chest ct ordered
   Assessment and Plan
   85 yo F w/ CLL presents with hematuria, abd pain and transient
   hypotension in ED,  found to have extensive masses throughout abd and
   pelvis/bladder concerning for widely metastatic disease of unclear
   primary , also with evidence of partial LLL collapse and PE
   Main issues remain:
   # Hypoxia
remains stable on 2L NC
          # PE--stable from hemodynamic and respiratory standpoint and
   feel is high risk for anticoagulation given extensive bladder mass and
   hematuria w/ recent h/h drop
           Had IVC filter placed yesterday and remains on dvt prophy with
   sc heparin
           Echo to assess RV fx
          #? post-obstructive pna--f/u ct chest (noncontrast) to further
   asses lung involvement and evaluate LLL, though without contrast
   evaluation of mediastinal LN is limited, also most likely from CLL, may
   identify bx-able lesion, though again if concern for transformation of
   CLL fna less helpful at making dx
          continue empiric antbx with levo flagyl, broadening coverage if
   worsening respiratory or clinical status
       # Cough
add tessalon perles, robitussion, flovent and consider
   codeine
   #CLL/malignancy
now with widely metastatic cancer,  primary site
   unclear
some findings likely secondary to known CLL, with possibility
   of transformation (Richters) though bladder mass seems less c/w this
   picture --? Bladder, breast, renal cell ca,
         Continue toward obtaining dx--tissue/cytologic--urology c/s and
   onc input, appreciated,  urine for cytology, given high risk for
   resection for uncontrolled bleeding.
         Chest ct to further eval for lung involvement  as above
         # anemia--hct below baseline and will follow, now post 1-unit
   prbc's w/ appropriate  bump,
                 hemolysis contributing
starting folate and holding on
   prednisone pending tissue dx as this could interfere
         # uric acid elevation--etiology unclear but question of tumor
   lysis, renal fx remains stable and other lytes stable, continue
   hydration and  follow tumor lysis labs
         # LFT s
trend
   #  Transient hypotension
now resolved
        most likely secondary to combination of medication effect from
   morphine  and hypovolemia , less likely d/t PE and/or sepsis/infection
       remains stable hemodynamically
       h/h with expected bump post transfusion, continuing to monitor
       f/u cx
s  and continue empiric antibx with levo flagyl
   # leukocytosis--difficult to interpret in setting of CLL--reactive
   verses infection-trending down and now near prior baseline
          onc c/s, following, infection w/u as noted, c diff
   #abd pain--multiple masses throughout abdomen likely etiology, continue
   empiric antibx and pain control with morphine
   #hematuria--TWF--good urine outpt without clot not requiring  urine
   irrigation
         h/h monitoring and transfusion as above, Q 3 hr urine cytology
   ordered
   # HTN
resume home regimen
   # Asthma--home meds
   Remainder per resident note, agree with plan as documented
   ICU Care
   Nutrition:
   Comments: advance for diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-2-1**] 10:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor if h/h remain stable on next lab check
   Total time spent: 35 minutes

2125-02-03 08:12:00 Physician Resident Progress Note
Chief Complaint: hematuria and abd pain
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2125-2-2**] 08:11 AM
   - called out to ONC
   - urine cytology pending
   - hct stable
   Allergies:
   Ultram (Oral) (Tramadol Hcl)
   dissociative re
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2125-2-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-2-2**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2125-2-3**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 87 (77 - 98) bpm
   BP: 95/50(60) {94/50(60) - 119/83(92)} mmHg
   RR: 24 (22 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,810 mL
                                                                    782 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    782 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    185 mL
   Urine:
                                                                  1,000 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    810 mL
                                                                    597 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Breath sounds diminshed at
   L base
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   9.1 g/dL
   129 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   14 mg/dL
   109 mEq/L
   145 mEq/L
   26.8 %
   17.6 K/uL
        [image002.jpg]
                             [**2125-2-1**]  12:53 PM
                             [**2125-2-1**]  07:45 PM
                             [**2125-2-2**]  02:47 AM
                             [**2125-2-2**]  10:15 AM
                             [**2125-2-3**]  03:10 AM
   WBC
   26.3
   21.6
   24.1
   17.6
   Hct
   25.9
   24.9
   29.0
   29.9
   26.8
   Plt
   [**Telephone/Fax (3) 1305**]91
   Cr
   0.6
   0.6
   0.7
   Glucose
   105
   97
   129
   Other labs: PT / PTT / INR:14.1/26.8/1.2, ALT / AST:15/36, Alk Phos / T
   Bili:61/1.3, Amylase / Lipase:/21, Differential-Neuts:21.0 %, Band:5.0
   %, Lymph:67.0 %, Mono:4.0 %, Eos:0.0 %, Albumin:3.0 g/dL, LDH:640 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Imaging: CT of chest:
   1.  Subcarinal nodal mass.
   2.  Mass in the left infrahilar region with post- obstructive
   atelectasis,
   which has progressed to near left lower lobe collapse.
   3.  Marked left axillary lymphadenopathy, amenable to biopsy.
   4.  Somewhat larger bilateral pleural effusions.
   5.  Collapsibility of the trachea suggesting tracheomalacia.
   6.  Coronary artery calcifications.
   7.  Multiple abnormal masses in the upper abdomen, better depicted on
   the
   recent abdominal CT.  The only new finding is trace ascites.
   8.  Known pulmonary embolism not visualized given the lack of contrast
   administration. The extent of pulmonary emboli, accordingly, cannot be
   assessed.
   TTE:
   The left atrium is elongated. Left ventricular wall thicknesses and
   cavity size are normal. Left ventricular systolic function is
   hyperdynamic (EF>75%). There is a mild resting left ventricular outflow
   tract obstruction. The gradient increased with the Valsalva manuever.
   Right ventricular chamber size and free wall motion are normal. The
   ascending aorta is mildly dilated. The aortic valve leaflets are mildly
   thickened. No aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. Trivial mitral regurgitation is seen. There is
   moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: Hyperdynamic left ventricular function with mild left
   ventricular outflow tract obstruction. No significant valvular
   disease.
   Microbiology: BCx Pending x 2
   Assessment and Plan
   A/P:
   85F russian, CLL, presenting with cough, abd pain, and hematuria, found
   to have LUL collapse [**1-6**] LAD, multiple abdominal mets, and new bladder
   mass.
   .
   # hypotension - resolving, ddx includes hypovolemia (blood loss,
   dehydration) vs sepsis vs PE vs [**1-6**] morphine. ANC > 1000, thus atypical
   infxns unlikely.  feel more likely medication vs sepsis. BP stable
   presently, low 100s, mentating well, well perfused.
   - follow UOP, prn bolus for UOP <30cc/hr (EF >55%).
   - T&S.
   - serial HCT for today, q8h.
   - f/u bcx, ucx, consider sputum cx.
   - continue levo/flagyl for now, consider broadening for
   post-obstructive cvg only if looks ill.
   - LENIs to consider IVC filter, consider CTA, as would be useful to
   better characterize thoracic lymphadenopathy in terms best site for
   biopsy.
   - ?heparin, consider hold off on anticoag for now given stable
   respiratory status, and ?hemodynamically significant bleeding.
   - upon further discussion, and repeat HCT falling, will place IVC
   filter and hold off on  heparin for now.
   .
   .
   # hypoxia - +cough, new LLL collapse likely 2/2 L hilar lymphadenopathy
   with resulting post-obstructive colapse, +LLL effusion, ?RLL increased
   opacification, also ?contribution from RLL PE (?old), not completely
   characterized on CT ABD/PELVIS. no EKG changes concerning for MI, no
   evidence of CHF.  currently on 2L O2, breathing comfortably.
   - CTA to characterize PE, also to characterize thoracic lymphadenoapthy
   and metastasis with regard to potential biopsy sites.
   - continue levo/flagyl, broaden if looks ill.
   - consider heparin gtt after CTA, hematuria stable presently
   - check sputum cx.
   .
   .
   # abdominal pain - multiple new omental, peritoneal, mesenteric, and
   retroperitoneal metastases, GE jxn mass, LUQ mass, primary unclear
   (bladder vs ovarian, though s/p tah/bso), concerning for new metastatic
   malignancy. also increased splenomegaly.  elevated tbil (2.1), though
   AP normal, could be [**1-6**]  hemolysis, no liver lesions on CT.
   - obtain tissue -> will biopsy bladder mass in AM.
   - trend LFTs, no evidence of bil dil on CT, consider RUQ USN if
   trending up.
   - tylenol, ultram prn for abd pain, would use 0.5-1mg morphine for abd
   pain if needed, though would be cautious given BP drop in ED.
   - hyperbilirubinemia may be [**1-6**] hemolysis, no biliary dilation on CT,
   no RUQ pain.
   - fractionate bilirubin.
   .
   .
   # hematuria - new bladder mass on CT scan, 400cc UOP in ED, ~100-200cc
   on arrival to [**Hospital Unit Name 44**].  has had clots in urine per pt.  creatinine
   stable.
   - place 3 way foley.
   - continuous bladder irrigation.
   - urology consult re biopsy of bladder mass.
   - hold aspirin.
   - cycle hct q8hr today.
   .
   .
   # leukocytosis - likely [**1-6**] CLL vs infection.
   - treat with abx as above, discuss plan for CLL with heme-onc.
   .
   # hyperbilirubinemia - no ruq pain, no biliary dilation on CT, ddx also
   includes hemolysis.
   - trend LFTs.
   - fractionate bili, check smear, haptoglobin, DAT.
   .
   .
   # CLL - baseline hct 35-36, plt 200s, splenomegaly now increased, new
   mediastinal lymphadenopathy.  new bladder mass.  +hyperbil, though
   haptoglobin+, DAT negative in [**5-11**], could represent hemolysis.
   - heme/onc consult.
   - fractionate bilirubin, check haptoglobin, LDH, platelets smear, DAT
   - d/w team best site for tissue biopsy.
   - elevated uric acid, ?tumor lysis-> will continue gentle IVF
   hydration, follow uric acid, phos, ca.
   .
   # htn - hold home antihypertensives given hypotension and hematuria.
   .
   # asthma - continue home meds.
   .
   # hyperlipidemia - continue home statin.
   .
   # OA - left hip, knee, tx with prn tylenol (max 2g/day given elevated
   LFTs).
   .
   # glucose intolerance - follow FSBS here, cover with [**Last Name (LF) **], [**First Name3 (LF) 178**] d/c if
   not requring insulin.
   .
   #FEN
   - npo for now, though biopsy unlikely, then diabetic diet.
   .
   #PPx
   - pneumoboots after LENIs, ppi.
   - bowel regimen prn.
   .
   #CODE: DNR/DNI, d/w pt and her son.
   .
   #DISPO
   - pending clinical improvement
   .
   #COMM: [**Name (NI) 1263**] [**Name2 (NI) 1264**] h-[**Telephone/Fax (1) 1265**], cell [**Telephone/Fax (1) 1266**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-2-1**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: